US03948906
a. Diphenylmethyl 3-iodomethyl-7β -(2'-thienylacetamido)ceph-3-em-4-carboxylate
Diphenylmethyl 3-chloromethyl-7β-(2'thienylacetamido)-ceph-3-em-4 -carboxylate (7.858 g., 14.5 mmole) was dissolved in acetone and reacted with sodium iodide (7.8 g., 50 mmole) in acetone (100 ml.) in the dark for 90 minutes. At the end of this time the solution was filtered and poured into water (750 ml.) containing sodium chloride and sodium thiosulphate. The oil was extracted with ether (4×), and the organic layer washed once with water and twice with brine, and dried and evaporated to a foam, which was crystallised from ethyl acetate (16 ml.) to give the title compound. The mother liquors were washed with sodium thiosulphate, water and brine, and were dried and evaporated to a foam (2.75 g., impure title compound, approx. 30% yield). Yield of crystalline material 60%, m.p. 155-161°C (decomp.), [α]D28 =86.3° (c 0.73; tetrahydrofuran), λmax. (ethanol) 290 nm. (ε 8,400), νmax. (Nujol) 1773 (β-lactam), 1717 (CO2R), and 1670 and 1520 cm.-1 (-CONH-), N.M.R. (deuterochloroform) τ5.70 (2-proton broad singlet) (CH2I) (Found: C, 51.6; H, 3.7; I, 19.7; N, 4.3; S, 10.2. C27H23IN2O4S2 requires C, 51.3; H, 3.7; I, 20.1; N, 4.4; S, 10.2), RF 0.65 (Kieselgel G, benzene-ethylacetate=5:1) (T.L.C.).

reactant | Diphenylmethyl 3-chloromethyl-7β-(2'thienylacetamido)-ceph-3-em-4 -carboxylate | 14.5 mmole, 7.858 g | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H23ClN2O4S2
reactant | sodium iodide | 50 mmole, 7.8 g | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Diphenylmethyl 3-iodomethyl-7β -(2'-thienylacetamido)ceph-3-em-4-carboxylate | approx. 30% yield | ICC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H23IN2O4S2
